US07723336B2
In a 2 dram reaction vial was added 8-bromo-6-chloroimidazo[1,2-b]pyridazine hydrochloric acid salt (0.5 g, 1.9 mmol) from Example I(1), step 1b, 4-nitroaniline (0.27 g, 1.9 mmol), 1.0 M potassium tert-butoxide in THF (7.6 ml, 7.6 mmol) and DMF (1.4 ml). Under N2, the reaction was stirred for 16 hr at 50° C. and the concentrated in vacuo. The resulting material was taken up in ethyl acetate and washed with H2O (2×50 ml) and then brine (1×20 ml). the organic layers were combined and dried over Na2SO4 and filtered. Following solvent evaporation, 0.42 g of crude 6-chloro-N-(4-nitrophenyl)imidazo[1,2-b]pyridazin-8-amine was obtained.

reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine hydrochloric acid salt | 1.9 mmol, 0.5 g | Cl.BrC=1C=2N(N=C(C1)Cl)C=CN2
reactant | 4-nitroaniline | 1.9 mmol, 0.27 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | THF | 7.6 mmol, 7.6 ml | C1CCOC1 | C4H8O
solvent | DMF | 1.4 ml | CN(C)C=O | C3H7NO
product | 6-chloro-N-(4-nitrophenyl)imidazo[1,2-b]pyridazin-8-amine | 0.42 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)[N+](=O)[O-] | C12H8ClN5O2
